US07094902B2
n-Butyllithium was added dropwise via syringe to a −78° C. (acetone-dry ice cooling bath) solution of 4-bromo-N,N-diphenylaniline (24 g, 0.074 mole) in 175 ml dry THF. Stirring was continued at −78° C. for an hour and then at −50° C. for an hour. The mixture was cooled to −78° C. and 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (17.22 g, 0.0925 mole) added via syringe in one portion. The temperature was maintained at −78° C. for three hours. The cooling bath was removed and the reaction left to warm to room temperature while standing for 12 hours. The reaction mixture was poured into saturated ammonium acetate and extracted with ether. The ether layer was dried over magnesium sulfate and concentrated to give a viscous oil. Purification by column chromatography (silica gel eluting with hexane:toluene mixtures of increasing gradient from 100% hexane to 40% hexane) gave N,N-diphenyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline as an oil (19.9 g, 72.8% yield), which slowly crystallized to a solid on standing.

reactant | n-Butyllithium | C(CCC)[Li]
reactant | acetone dry ice | CC(=O)C.C(=O)=O
reactant | 4-bromo-N,N-diphenylaniline | 0.074 mole, 24 g | BrC1=CC=C(N(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C18H14BrN
reactant | 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.0925 mole, 17.22 g | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
solvent | THF | 175 ml | C1CCOC1 | C4H8O
product | N,N-diphenyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 19.9 g, 72.8% yield | C1(=CC=CC=C1)N(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1 | C24H26BNO2
